US08022062B2
6-Methoxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
To a slurry of 6-methoxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine hydrochloride (35.3 g, 0.165 mol, 1 equiv.) and triethylamine (69.1 mL, 0.496 mol, 3 equiv.) in DCM (300 mL) cooled at 0° C. with ice/water, add dropwise a solution of trifluoroacetic anhydride (25.7 mL, 0.182 mol, 1.1 equiv.) in DCM (40 mL) over 30 min, but at a rate that maintains the temperature below 10° C. After the addition is complete, warm the reaction mixture to ambient temperature and stir until the reaction is complete (verify by TLC using 9:1 CH2Cl2:methanol, about 2 h.). Wash the solution with water (2×350 mL), and then brine (350 mL), dry the organic layer over Na2SO4, filter and concentrate in vacuo to give desired intermediate as a yellow oil that solidifies upon standing (44.9 g, 96%). Use the material without further purification in the next step. Prepare an analytical sample by chromatography on silica gel eluting with 40% diethyl ether in hexane, mp 74-76° C. 1H NMR (300 MHz, CDCl3), δ 7.16-7.11 (m, 1H), 6.81-6.74 (m, 2H), 3.81 (s, 3H), 3.79-3.64 (m, 4H), 3.11-3.07 (m, 2H), 2.99-2.95 (m, 2H); 1H NMR (300 MHz, DMSO-d6), δ 7.13 (dd, 1H, J=1.5, 7.0), 7.08 (d, 1H, J=1.5), 6.88-6.74 (m, 1H), 3.75 (s, 3H), 3.67-3.61 (m, 4H), 3.04-2.92 (m, 4H); 13C NMR (300 MHz, DMSO-d6), δ 156.43. 156.38, 155.06, 155.00, 154.60, 154.54, 154.14, 154.08, 141.31, 141.04, 127.44, 127.18, 127.05, 127.01, 122.27, 121.94, 121.90, 118.46, 114.64, 110.80, 109.52, 109.41, 55.63, 55.61, 47.11, 47.07, 46.67, 46.63, 45.61, 45.16, 35.90, 34.65, 26.18, 24.91; Anal. Calc'd for C13H14F3NO2: C, 57.14; H, 5.16; N, 5.13. Found: C, 57.17; H, 5.27; N, 5.08.

reactant | 6-methoxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine hydrochloride | 0.165 mol, 35.3 g, 1 equiv. | Cl.COC1=CC=CC=2CCNCCC21
reactant | triethylamine | 0.496 mol, 69.1 mL, 3 equiv. | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.182 mol, 25.7 mL, 1.1 equiv. | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | methanol | CO | CH4O
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 6-Methoxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | COC1=CC=CC=2CCN(CCC21)C(C(F)(F)F)=O | C13H14F3NO2
